US09290468B2
Methyl 4-fluoro-5((2-fluorophenyl)amino)benzo[d]thiazole-6-carboxylate can be reacted with halogenations reagent (such as NIS) in the presence of acid (such as trifluoroacetic acid, trifluoromethanesulfonic acid, methanesulfonic acid, formic acid, acetic acid) at ambient temperature in appropriate solvent (include aliphatic and aromatic hydrocarbon (such as pentane, hexane, heptane, cyclohexane, petroleum ether, petrol, gasoline, benzene, toluene, xylene), aliphatic and aromatic halo-hydrocarbon (such as dichloromethane, 1,2-dichloroethane, chloroform, phenixin, chlorobenzene, o-dichlorobenzene), ether (such as diethyl ether, dibutyl ether, glycol dimethyl ether, 2-methoxyethyl ether, tetrahydrofuran, dioxane), ketone (such as acetone, methyl ethyl ketone, methyl isopropyl ketone, methyl isobutyl ketone), ester (such as ethyl acetate, methyl acetate), nitrile (such as acetonitrile, propiononitrile), amide (such as N,N-dimethylformamide, N,N-dimethylacetamide and N-methylpyrrolidin-2-one), DMSO, sulfolane, HMPA, DMPU, prefer N,N-dimethylformamide and N,N-dimethylacetamide) for some time (1-12 h, prefer 3-10 h). Methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylate is obtained after conventional workup.

reactant | Methyl 4-fluoro-5((2-fluorophenyl)amino)benzo[d]thiazole-6-carboxylate | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=CC=C2)F | C15H10F2N2O2S
reactant | NIS | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | formic acid | C(=O)O | CH2O2
product | Methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylate | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=C(C=C2)I)F | C15H9F2IN2O2S
